US08106043B2
tert-Butyl 4-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)piperidine-1-carboxylate:
To a stirred solution of tert-butyl 4-(2-(2-iodoethylthio)-5-nitrophenylamino)piperidine-1-carboxylate (1.49 g, 2.94 mmol) in DMF (10 mL) was added potassium carbonate (0.812 g, 5.87 mmol). The resulting mixture was stirred at 90° C. for 3 hours. The reaction mixture was then diluted with ethyl acetate and washed sequentially with water and saturated sodium carbonate (2×). The organic phase was dried, filtered, concentrated, and then chromatographed in 1:4 ethyl acetate:hexanes, giving the desired product (473 mg, 42.4%) as an orange foam. 1H NMR (DMSO-d6) δ 7.57 (d, J=2.4 Hz, 1H), 7.41 (dd, J=8.7, 2.4 Hz, 1H), 7.22 (d, J=8.7 Hz, 1H), 4.09-3.88 (m, 3H), 3.47-3.42 (m, 2H), 3.12-3.08 (m, 2H), 3.01-2.85 (m, 2H), 1.72-1.51 (m, 4H), 1.41 (s, 9H); ESI-MS (m/z, %): 402 (M+Na, 95), 380 (MH+, 28), 324 (100), 280 (55).

reactant | tert-butyl 4-(2-(2-iodoethylthio)-5-nitrophenylamino)piperidine-1-carboxylate | 2.94 mmol, 1.49 g | ICCSC1=C(C=C(C=C1)[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C | C18H26IN3O4S
reactant | potassium carbonate | 5.87 mmol, 0.812 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)piperidine-1-carboxylate | 473 mg, 42.4% | [N+](=O)([O-])C1=CC2=C(SCCN2C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C18H25N3O4S
